US07378415B2
A solution of 7-benzenesulfonyl-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one (0.570 g., 1.79 mmol) in 10 mL freshly distilled THF was cooled to 0° C., and borane-THF complex (5.39 mL of a 1 M solution in THF, 5.39 mmol) was added dropwise over 2 minutes. The resulting solution was warmed to reflux and stirred for 1 hour. Ethanolic hydrogen chloride (4 mL of 2 N solution, 8 mmol) was then added dropwise and the reaction was heated at reflux for an additional hour. The reaction mixture was cooled to room temperature and added to a mixture of 100 mL each ethyl acetate and 10% aqueous sodium bicarbonate. Potassium carbonate was added until the pH of the aqueous phase was roughly 7. The organic layer was separated, washed with 50 mL water and 50 mL brine, dried over sodium sulfate and concentrated in vacuo. The resulting crude oil was purified by flash chromatography (10 to 45% ethyl acetate in hexanes) to give 520 mg (94%) of 7-benzenesulfonyl-2,2-dimethyl-3,4-dihydro-2H-benzo[1,4]oxazine as a white powder. MS: 304 (M+H)+.

reactant | 7-benzenesulfonyl-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | 1.79 mmol, 0.570 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(NC(C(O2)(C)C)=O)C=C1 | C16H15NO4S
reactant | hydrogen chloride | 8 mmol, 2 N, 4 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 7-benzenesulfonyl-2,2-dimethyl-3,4-dihydro-2H-benzo[1,4]oxazine | 520 mg, 94% | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(NCC(O2)(C)C)C=C1 | C16H17NO3S
